US08314100B2
1-[(6-Fluoro-3-methoxyquinoxalin-2-yl)aminocarbonyl]-4-(2-pyridyl)piperazine (Compound 104)
Ethyl N-(6-fluoro-3-methoxyquinoxalin-2-yl)carbamate and 1-(2-pyridyl)piperazine were reacted by the same way with the example 85 to obtain the titled compound (yield, 80%). 1H NMR (200 MHz, CDCl3): δ 3.72-3.76 (m, 8H), 4.16 (s, 3H), 6.66-6.70 (m, 2H), 7.24-7.52 (m, 4H), 7.80-7.81 (m, 1H), 8.21 (dd, J=5.4 and 1.8 Hz, 1H).

reactant | Ethyl N-(6-fluoro-3-methoxyquinoxalin-2-yl)carbamate | FC=1C=C2N=C(C(=NC2=CC1)NC(OCC)=O)OC | C12H12FN3O3
reactant | 1-(2-pyridyl)piperazine | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
product | 1-[(6-Fluoro-3-methoxyquinoxalin-2-yl)aminocarbonyl]-4-(2-pyridyl)piperazine | 80% | FC=1C=C2N=C(C(=NC2=CC1)NC(=O)N1CCN(CC1)C1=NC=CC=C1)OC | C19H19FN6O2
